US04791220
(a) Preparation of methyl 3-piperidinovalerate
A mixture of 500 g of methyl 2-trans-pentenoate and 372 g of piperidine was heated at 65° C. for 17 hours and then at 100° C. for 24 hours. After distillation over a Vigreux column, 562 g (64% of theory) of methyl 3 -piperidinovalerate of boiling point 64° C./2 mbar, nD20 =1.4592, were obtained.

reactant | methyl 2-trans-pentenoate | 500 g | C(\C=C\CC)(=O)OC | C6H10O2
reactant | piperidine | 372 g | N1CCCCC1 | C5H11N
product | methyl 3-piperidinovalerate | N1(CCCCC1)C(CC(=O)OC)CC | C11H21NO2
